US06809097B1
Diethyl azodicarboxylate (340 mg, 2 mmol) was added dropwise to a solution of triphenylphosphine (520 mg, 2 mmol), 4-chloro-7-hydroxy-6-methoxyquinoline (265 mg, 1.26mmol), (prepared as described for the starting material in Example 3), and 3-(3-pyridyl)-1-propanol (170 mg, 1.24 mmol) in methylene chloride (10 ml). The mixture was stirred for 1 hour at ambient temperature. The volatiles were removed by evaporation and the residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (50/45/5 increasing to 50/40/10). The purified product was triturated with ether, collected by filtration and dried under vacuum to give 4-chloro-6-methoxy-7-(3-(3-pyridyl)propoxy)quinoline (300 mg, 72%).

reactant | Diethyl azodicarboxylate | 2 mmol, 340 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 2 mmol, 520 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-chloro-7-hydroxy-6-methoxyquinoline | 1.26mmol, 265 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)O | C10H8ClNO2
reactant | 3-(3-pyridyl)-1-propanol | 1.24 mmol, 170 mg | N1=CC(=CC=C1)CCCO | C8H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-methoxy-7-(3-(3-pyridyl)propoxy)quinoline | 300 mg, 72% | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCC=1C=NC=CC1 | C18H17ClN2O2
